US07173129B2
Ex-38A: Method A: A mixture of 2,4-dimethoxyaniline (1.0 g, 6.53 mmol), 1,4-dibromobutane (1.41 g, 6.53 mmol) and potassium carbonate (3.61 g, 26.1 mmol) in N,N-dimethylformamide (70 mL) was heated at 150° C. overnight. The reaction mixture was concentrated under reduced pressure. The residue was taken up in a mixture of water and ethyl acetate. After the mixture was partitioned, the aqueous solution was extracted with ethyl acetate. The combined solution of ethyl acetate was washed with saturated sodium bicarbonate, brine, dried over sodium sulfate and concentrated. The residue was purified by flash chromatography. Elution with ethyl acetate and hexane (1:2, v/v) gave 1-pyrrolidin-1-yl-2,4-dimethoxybenzene as a brown oil (0.85 g, 63%). 1H-NMR (300 MHz, CDCl3) δ 6.76 (d, J=8.9 Hz, 1H), 6.49 (d, J=2.7 Hz, 1H), 6.41 (dd, J=2.7, 8.9 Hz, 1H), 3.84 (s, 3H), 3.78 (s, 3H), 3.18–3.14 (m, 4H), 1.95–1.90 (m, 4H). Method B: Sodium tert-butoxide was charged to a mixture of 1-bromo-2,4-dimethoxybenzene (3.03 g, 14.0 mmol), pyrrolidine (1.75 mL, 20.9 mmol), tris(dibenzylideneacetone)dipalladium (Pd2(dba)3) (0.26 g, 0.28 mmol) and rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP) (0.35 g, 0.56 mmol) in degassed toluene (60 mL). The reaction mixture was heated at 100° C. under N2 for 17 h. After cooling to room temperature, the reaction mixture was diluted with water (60 mL) and partitioned. The aqueous solution was further extracted with ethyl acetate. The combined ethyl acetate and toluene was washed with saturated sodium bicarbonate, brine, dried over sodium sulfate and concentrated. The crude product was purified by flash chromatography with ethyl acetate and hexane (1:2, v/v) to give 1-pyrrolidin-1-yl-2,4-dimethoxybenzene as a brown oil (1.82 g, 63%).

reactant | Sodium tert-butoxide | CC(C)([O-])C.[Na+]
reactant | 1-bromo-2,4-dimethoxybenzene | 14.0 mmol, 3.03 g | BrC1=C(C=C(C=C1)OC)OC | C8H9BrO2
reactant | pyrrolidine | 20.9 mmol, 1.75 mL | N1CCCC1 | C4H9N
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 60 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.28 mmol, 0.26 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.56 mmol, 0.35 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 1-pyrrolidin-1-yl-2,4-dimethoxybenzene | 1.82 g, 63% | N1(CCCC1)C1=C(C=C(C=C1)OC)OC | C12H17NO2
